US08293923B2
Step 5: Ethyl 2-amino-1-(trans-4-(tert-butyldimethylsilyloxy)cyclohexyl)-1H-benzo[d]imidazole-5-carboxylate
Ethyl 2-amino-1-(trans-4-hydroxycyclohexyl)-1H-benzimidazole-5-carboxylate (0.97 g, 0.0032 mol) was dissolved in N,N-dimethylformamide (10 mL, 0.2 mol) at room temperature. 1H-Imidazole (0.50 g, 0.0074 mol) and tert-butyldimethylsilyl chloride (0.53 g, 0.0035 mol) were added and the mixture stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate and washed with saturated bicarbonate then brine. The organics were collected and dried over sodium sulfate and concentrated. The crude solid was purified by combiflash chromatography using methylene chloride and methanol as eluent. Product fractions were concentrated to give an off white solid (1.099 g). MS (ESI (+)m/z) 418.04 (M+H+)

reactant | Ethyl 2-amino-1-(trans-4-hydroxycyclohexyl)-1H-benzimidazole-5-carboxylate | 0.0032 mol, 0.97 g | NC1=NC2=C(N1[C@@H]1CC[C@H](CC1)O)C=CC(=C2)C(=O)OCC | C16H21N3O3
reactant | N,N-dimethylformamide | 0.2 mol, 10 mL | CN(C=O)C | C3H7NO
reactant | 1H-Imidazole | 0.0074 mol, 0.50 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.0035 mol, 0.53 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-amino-1-(trans-4-(tert-butyldimethylsilyloxy)cyclohexyl)-1H-benzo[d]imidazole-5-carboxylate | 1.099 g | NC1=NC2=C(N1[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C)C=CC(=C2)C(=O)OCC | C22H35N3O3Si
